US05019574
The 3-morpholino-4-nitroquinoline-N-oxide (3 g, 0.011 mol) was suspended in dimethylformamide (40 ml) and following addition of phenyl isocyanate (3.4 g, 0.029 mol), the mixture was added on an oil bath at 80°-90° C. for ca. 3 hours. The reaction mixture was totally charged into water and subjected to extraction with chloroform. The chloroform layer was washed with water and dried with anhydrous sodium sulfate. After the chloroform was distilled off under vacuum, the residue was subjected to recrystallization with ethanol. The resulting crystal was recovered by filtration under vacuum to obtain 2-anilino-3-morpholino-4-nitroquinoline in an amount of 2.95 g (yield, 77%).

reactant | 3-morpholino-4-nitroquinoline-N-oxide | 0.011 mol, 3 g | O1CCN(CC1)C=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C13H13N3O4
reactant | phenyl isocyanate | 0.029 mol, 3.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-anilino-3-morpholino-4-nitroquinoline | N(C1=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1N1CCOCC1)[N+](=O)[O-] | C19H18N4O3
